US05998470
a) methyl 4-pyridinylmethoxybenzoate
Following the procedure of Example 76(a) except substituting methyl 3-hydroxybenzoate for methyl 4-hydroxybenzoate and 4-pyridylcarbinol for 3-dimethylamino-1-propanol, the title compound was prepared as a yellow solid (0.599 g, 2.5 mmol). MS(ESI): 244.1 (M+H)+.

reactant | methyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 4-pyridylcarbinol | N1=CC=C(C=C1)CO | C6H7NO
reactant | 3-dimethylamino-1-propanol | CN(CCCO)C | C5H13NO
product | methyl 4-pyridinylmethoxybenzoate | N1=C(C=CC=C1)COC1=CC=C(C(=O)OC)C=C1 | C14H13NO3
